US09371292B2
Step 1: The preparation of diethyl (2-((4-((3-chloro-4-fluorophenyl)amino)-7-methoxy-quinazolin-6-yl)amino)-1-fluoro-2-oxoethyl)phosphonate
6-amino-4-(3-chloro-4-fluorophenylamino)-7-methoxy-quinazoline (1.0 eq.) and triethylamine (1.5 eq.) were dissolved in DMF (10 ml), and the mixture was stirred at 0° C. for 30 min. A solution of diethyl (2-chloro-1-fluoro-2-oxoethyl)phosphonate (1.5 eq.) in DMF (5 ml) was added dropwise slowly into the mixture mentioned above, and stirred overnight at room temperature. After the reaction finished, the mixture was quenched with saturated NaHCO3, extracted with EtOAc, and the organic phase was dried over anhydrous sodium sulfate, concentrated to dryness under reduced pressure, then the crude product was purified by column chromatography (mobile phase 40:1 DCM/MeOH) and a light yellow solid of diethyl (2-((4-((3-chloro-4-fluorophenyl)amino)-7-methoxy-quinazolin-6-yl)amino)-1-fluoro-2-oxoethyl)phosphonate was given. (50% yield).

reactant | 6-amino-4-(3-chloro-4-fluorophenylamino)-7-methoxy-quinazoline | 1.0 eq. | NC=1C=C2C(=NC=NC2=CC1OC)NC1=CC(=C(C=C1)F)Cl | C15H12ClFN4O
reactant | triethylamine | 1.5 eq. | C(C)N(CC)CC | C6H15N
reactant | diethyl (2-chloro-1-fluoro-2-oxoethyl)phosphonate | 1.5 eq. | ClC(C(F)P(OCC)(OCC)=O)=O | C6H11ClFO4P
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | diethyl (2-((4-((3-chloro-4-fluorophenyl)amino)-7-methoxy-quinazolin-6-yl)amino)-1-fluoro-2-oxoethyl)phosphonate | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C(F)P(OCC)(OCC)=O)=O)OC | C21H22ClF2N4O5P
